US04093538
0.09 mol of sodium methylate in 25 cc of methanol was added within 45 minutes to a mixture of 136.5 g (0.75 mol) of carbomethoxy-methane-phosphonic acid dimethyl ester and 108 g (0.75 mol) of dimethyl maleate. The temperature was found to increase from 22° C to 41° C. The whole was allowed to further react for 30 minutes at 100° C. After neutralization by the addition of 5 cc of concentrated hydrochloric acid and filtration, all volatile matter was distilled off under vacuum at a base temperature up to 120° C. 1,2,3-tricarbomethoxy-propane-1-phosphonic acid dimethyl ester was obtained in a crude yield of 237 g (97 % of the theoretical). The ester had a boiling point of 169°-172° C under 0.7 mm of mercury. n25D = 1.4520.

reactant | sodium methylate | 0.09 mol | C[O-].[Na+]
reactant | carbomethoxy-methane-phosphonic acid dimethyl ester | 0.75 mol, 136.5 g | COP(OC)(=O)CC(=O)OC | C5H11O5P
reactant | dimethyl maleate | 0.75 mol, 108 g | C(\C=C/C(=O)OC)(=O)OC | C6H8O4
reactant | hydrochloric acid | 5 cc | Cl | ClH
solvent | methanol | 25 cc | CO | CH4O
product | 1,2,3-tricarbomethoxy-propane-1-phosphonic acid dimethyl ester | COP(OC)(=O)C(C(CC(=O)OC)C(=O)OC)C(=O)OC | C11H19O9P
